US09376441B2
A suspension of 2-(4-bromophenyl)-2-methylpropanenitrile (110 mg, 0.491 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (187 mg, 0.736 mmol), potassium acetate (72.3 mg, 0.736 mmol) and Pd(dppf)Cl2 (18.0 mg, 0.0250 mmol) in dioxane (3 mL) was degassed and the reaction was heated to 95° C. for 90 minutes. The reaction mixture was concentrated to provide 2-methyl-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propanenitrile which was used directly in subsequent reactions. LCMS-ESI+ (m/z): [M+H]+ calcd for C16H23BNO: 272.2; found: 272.2.

reactant | 2-(4-bromophenyl)-2-methylpropanenitrile | 0.491 mmol, 110 mg | BrC1=CC=C(C=C1)C(C#N)(C)C | C10H10BrN
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.736 mmol, 187 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.736 mmol, 72.3 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.0250 mmol, 18.0 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-methyl-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propanenitrile | CC(C#N)(C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H22BNO2
